US05610141
b) (S,S)-2,7-Bis(tert-butyloxycarbonylamino)-4-(benzyloxycarbonyl)-4-azaoctanedioic acid
1M NaHCO3 (5.9 ml, 5.92 mmol ) and benzyloxycarbonyl chloride (0.5 g, 0.42 ml, 2.96 mmol) were added to a solution of (S,S)-2,7-bis (tert-butyloxycarbonylamino)-4-azaoctanedioic acid (0.6 g, 1.48 mmol) in dioxane (40 ml ) and H2O (30 ml ) at 0° C. The mixture was stirred at 0° C. for 3 hours, at ambient temperature for 6 hours, evaporated, the residue triturated with chloroform (5 ml) and acetic acid to pH 5. The chloroform solution was evaporated and the product isolated after chromatography on silica gel (CHCl3 : MeOH 4:1).

reactant | NaHCO3 | 5.92 mmol, 1M, 5.9 ml | C(=O)(O)[O-].[Na+]
reactant | benzyloxycarbonyl chloride | 2.96 mmol, 0.42 ml, 0.5 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | (S,S)-2,7-bis (tert-butyloxycarbonylamino)-4-azaoctanedioic acid | 1.48 mmol, 0.6 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CNCC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C17H31N3O8
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | H2O | 30 ml | O | H2O
product | (S,S)-2,7-Bis(tert-butyloxycarbonylamino)-4-(benzyloxycarbonyl)-4-azaoctanedioic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CN(CC[C@@H](C(=O)O)NC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C25H37N3O10
